US08357819B2
2.6 g (9.27 mmol) of methyl (Z)-3-(3-butoxy-4-hydroxyphenyl)-2-methoxyacrylate are dissolved in 25 ml of dichloromethane and then 2 ml of triethylamine are added. 1.67 ml of triflic anhydride (10.2 mmol) are slowly added at 0° C. The reaction mixture is stirred at 0° C. for 2 hours. The reaction is halted using a saturated sodium hydrogencarbonate solution. The medium is extracted with ethyl acetate. The organic phases are combined, dried over sodium sulphate and then filtered through a silica patch (1 cm). The solvents are evaporated. 3.57 g of methyl (Z)-2-methoxy-3-(3-butoxy-4-(trifluoromethanesulphonyloxy)phenyl)acrylate are obtained.

reactant | methyl (Z)-3-(3-butoxy-4-hydroxyphenyl)-2-methoxyacrylate | 9.27 mmol, 2.6 g | C(CCC)OC=1C=C(C=CC1O)\C=C(\C(=O)OC)/OC | C15H20O5
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | triflic anhydride | 10.2 mmol, 1.67 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | methyl (Z)-2-methoxy-3-(3-butoxy-4-(trifluoromethanesulphonyloxy)phenyl)acrylate | 3.57 g, Yield=93% | CO\C(\C(=O)OC)=C/C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)OCCCC | C16H19F3O7S
